US05089496
8-CHLORO-11-(1-METHYLAMINOCARBONYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE
To a mixture of 2.03g (6.53 mmole) of 8-chloro-11-(1-acetyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine and 1.0 mL of triethylamine in 30 mL of dry THF at -10° C. and under a nitrogen atmosphere was added dropwise over 10 minutes 0.40 mL (6.78 mmole) of methylisocyanate. The mixture was slowly warmed to room temperature. After 4 hours it was poured in water and extracted 3× with CH2Cl2. The organic portions were combined, dried over MgSO4, filtered and concentrated in vacuo to afford a product which was recrystallized from CH2Cl2 /ethyl acetate/hexanes to give 1.70 g of the title compound as white crystals. (m.p. 194.5°-196° C.).

reactant | 8-chloro-11-(1-acetyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 6.53 mmole, 2.03g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(C)=O)C1 | C21H21ClN2O
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | methylisocyanate | 6.78 mmole, 0.40 mL | CN=C=O | C2H3NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 8-CHLORO-11-(1-METHYLAMINOCARBONYL-4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE | 1.70 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(=O)NC)C1 | C21H22ClN3O
